US07977340B2
1-Ethyl-3-[7-(2-fluoro-phenyl)-5-pyridin-3-yl-benzothiazol-2-yl]-urea.
A stirred mixture of 1-(7-Bromo-5-pyridin-3-yl-benzothiazol-2-yl)-3-ethyl-urea (50 mg, 0.133 mmol), 2-fluorobenzeneboronic acid (19 mg, 0.139 mmol), powdered potassium phosphate tribasic (34 mg, 0.160 mmol) and 1,1′-bis(diphenylphosphino)ferrocene palladium(II) chloride complex (16 mg, 0.01995 mmol) in anhydrous 1,4-dioxane (1 ml) and anhydrous methanol (2 ml) was purged with nitrogen for 5 min and heated in a sealed vessel for 16 h at 80° C. After cooling to ambient temperature, the mixture was filtered through kieselguhr. The kieselguhr was thoroughly washed with methanol and the combined filtrates evaporated to dryness in vacuo to give the crude 1-Ethyl-3-[7-(2-fluoro-phenyl)-5-pyridin-3-yl-benzothiazol-2-yl]-urea which was purified by “flash” silica chromatography eluting with 0 to 30% methanol in ethyl acetate. 12 mg of a pale-brown solid was obtained.

reactant | 1-(7-Bromo-5-pyridin-3-yl-benzothiazol-2-yl)-3-ethyl-urea | 0.133 mmol, 50 mg | BrC1=CC(=CC=2N=C(SC21)NC(=O)NCC)C=2C=NC=CC2 | C15H13BrN4OS
reactant | 2-fluorobenzeneboronic acid | 0.139 mmol, 19 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | potassium phosphate tribasic | 0.160 mmol, 34 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 2 ml | CO | CH4O
product | 1-Ethyl-3-[7-(2-fluoro-phenyl)-5-pyridin-3-yl-benzothiazol-2-yl]-urea | 12 mg | C(C)NC(=O)NC=1SC2=C(N1)C=C(C=C2C2=C(C=CC=C2)F)C=2C=NC=CC2 | C21H17FN4OS
